US07186714B2
A solution of 1-[2-(4-fluorophenyl)-8-nitroimidazo[1,2-α]pyridin-3-yl]ethanone (100 mg, 0.33 mmol) in methanol (3 mL) was added to a suspension of iron (93 mg, 1.7 mmol) and ammonium chloride (149 mg, 2.8 mmol) in aqueous methanol. This reaction mixture was heated to reflux for 10 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure to a solid. This solid was purified by silica gel chromatography (5% methanol in dichloromethane) to give 63 mg (70%) of 1-[8-amino-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]ethanone as a foam. 1H NMR (CDCl3): δ 9.21 (d, 1H), 7.61 (m, 2H), 7.25 (m, 2H), 6.94 (t, 1H) 6.72 (d, 1H), 4.63 (broad s, 2H), 2.19 (s, 3H); MS m/z 270 (M+1).

reactant | 1-[2-(4-fluorophenyl)-8-nitroimidazo[1,2-α]pyridin-3-yl]ethanone | 0.33 mmol, 100 mg | FC1=CC=C(C=C1)C=1N=C2N(C=CC=C2[N+](=O)[O-])C1C(C)=O | C15H10FN3O3
reactant | ammonium chloride | 2.8 mmol, 149 mg | [Cl-].[NH4+]
solvent | methanol | 3 mL | CO | CH4O
catalyst | iron | 1.7 mmol, 93 mg | [Fe] | Fe
product | 1-[8-amino-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]ethanone | 63 mg, 70% | NC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C(C)=O | C15H12FN3O
